US07538121B2
Ethyl 6-(3-fluorophenyl)-2-methylnicotinate
The title compound was prepared from dimethylamino-(3-fluorophenyl)propan-1-one and ethyl 3-aminocrotonate using the general procedure outlined in D18. 1H NMR (250 MHz, CDCl3) δ (ppm): 8.27 (d, 1H), 7.83 (m, 2H), 7.61 (d, 1H), 7.44 (m, 1H), 7.13 (m, 1H), 4.41 (q, 2H), 2.91 (s, 3H), 1.42 (t, 3H).

reactant | dimethylamino-(3-fluorophenyl)propan-1-one | CN(C)C(C(=O)C1=CC(=CC=C1)F)C | C11H14FNO
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | Ethyl 6-(3-fluorophenyl)-2-methylnicotinate | FC=1C=C(C=CC1)C1=NC(=C(C(=O)OCC)C=C1)C | C15H14FNO2
